US07642264B2
5-{1-[4-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-1H-imidazol-4-yl}-pyridin-2-ylamine
The title compound was prepared from 2-(4-bromo-imidazol-1-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine (example E.1) (0.44 g, 1.0 mmol) and commercially available 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.22 g, 1.0 mmol) according to the general procedure VI. Obtained as a yellow solid (0.031 g, 7%). MS (ISP) 451.0 [(M+H)+]; mp 286° C.

reactant | 2-(4-bromo-imidazol-1-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | 1.0 mmol, 0.44 g | BrC=1N=CN(C1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C15H7BrF6N4
reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 1.0 mmol, 0.22 g | NC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H17BN2O2
product | 5-{1-[4-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-1H-imidazol-4-yl}-pyridin-2-ylamine | FC(C1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)N1C=NC(=C1)C=1C=CC(=NC1)N)(F)F | C20H12F6N6
